US05856529
Step 8: 4-[2-Ethoxycarbonyl-6-hydroxyphenyl]butanoic acid
Ethyl 4-[2-ethoxycarbonyl-6-hydroxyphenyl]butanoic acid (9.06 g, 32.4 mmol) was dissolved in a room temperature solution of potassium hydroxide (3.62g, 64.6 mmol) in water (68 ml). The solution was stirred at room temperature for 2 hr, and then made acidic with 12N HCl. The mixture was extracted twice with ethyl acetate. The ethyl acetate extracts were combined and extracted with 10% aqueous potassium carbonate three times. These aqueous extracts were made acidic with 12N HCl and extracted twice with ethyl acetate. The ethyl acetate extracts were concentrated in vacuo to a white solid (6.4 g, 79%).

reactant | Ethyl 4-[2-ethoxycarbonyl-6-hydroxyphenyl]butanoic acid | 32.4 mmol, 9.06 g | C(C)C(C(=O)O)CCC1=C(C=CC=C1O)C(=O)OCC | C15H20O5
reactant | potassium hydroxide | 64.6 mmol, 3.62g | [OH-].[K+]
reactant | HCl | 12N | Cl | ClH
solvent | water | 68 ml | O | H2O
product | 4-[2-Ethoxycarbonyl-6-hydroxyphenyl]butanoic acid | C(C)OC(=O)C1=C(C(=CC=C1)O)CCCC(=O)O | C13H16O5
